US07705028B2
6b) 6-(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}phenyl)-2-naphthoic acid
To solution of methyl 6-(4-hydroxyphenyl)-2-naphthoate (55 mg, 0.20 mmol) in DMF (1.0 mL) was added K2CO3 (68 mg, 0.49 mmol) and 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole (91 mg, 0.30 mmol) and the mixture was stirred at ambient temperature for 12 hr. Additional 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole (50 mg, 0.16 mmol) and K2CO3 (68 mg, 0.49 mmol) in DMF (0.5 mL) was added and the mixture stirred at 70° C. for 3 hr. The solution was diluted with 50 mL EtOAc then washed with three 25 mL portions of H2O followed by 25 mL of brine then dried over Na2SO4, filtered, concentrated, and purified by silica gel chromatography (12 g of silica gel eluting with 0-40% EtOAc in hexanes over 45 minutes.) Product fractions were pooled and concentrated. To this residue was added EtOH (2.5 mL), THF (1.0 mL), H2O (0.5 mL) and NaOH (35 mg, 0.84 mmol) and the solution was stirred at 60° C. for 12 hr. The solution was concentrated to ˜⅓ volume then added dropwise to 1.0 N HCl (6 mL, aq.) The resulting solids were collected by suction filtration, washed with H2O and dried to give the title compound as an off-white solid (42 mg, 94%.) 1H NMR (DMSO-d6): δ 13.0 (broad s, 1H), 8.57 (s, 1H), 8.18 (s, 1H), 8.12 (d, J=9 Hz, 1H), 8.01 (d, J=9 Hz, 1H), 7.95 (d, J=9 Hz, 1H), 7.85 (d, J=9 Hz, 1H), 7.69 (d, J=8 Hz, 2H), 7.62 (d, J=8 Hz, 2H), 7.59-7.51 (m, 1H), 6.91 (d, J=8 Hz, 2H), 4.87 (s, 2 H), 3.45 (septet, J=7 Hz, 1H), 1.33 (d, J=7 Hz, 6H). ESI-LCMS m/z 532 (M+H)+.

reactant | methyl 6-(4-hydroxyphenyl)-2-naphthoate | 0.20 mmol, 55 mg | OC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C18H14O3
reactant | K2CO3 | 0.49 mmol, 68 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole | 0.30 mmol, 91 mg | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole | 0.16 mmol, 50 mg | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | K2CO3 | 0.49 mmol, 68 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 0.84 mmol, 35 mg | [OH-].[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 0.5 mL | O | H2O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | 6-(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}phenyl)-2-naphthoic acid | 42 mg, 94% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O)C(C)C | C30H23Cl2NO4
